US07888364B2
3-(2-Bromoethoxy)-N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(methylsulfonylmethyl)benzamide (50 mg, 0.095 mmol) was dissolved in dichloromethane (1.0 ml), treated with triethylamine (20 μl, 0.15 mmol) and piperidine (11 μl, 0.11 mmol), and stirred 2.0 hours at room temperature. Acetonitrile (0.25 ml) and N-ethyl-N-isopropylpropan-2-amine (25 μl, 0.19 mmol) were added, and the reaction was stirred for an additional 45 hours. The reaction was quenched in water and extracted with dichloromethane twice. The dichloromethane extracts were washed with water once, brine once, dried with MgSO4, and evaporated to an solid which was purified by reverse phase HPLC to yield 17 mg N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(methylsulfonylmethyl)-3-(2-(piperidin-1-yl)ethoxy)benzamide. MS (Q1) 528 (M)+.

reactant | 3-(2-Bromoethoxy)-N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(methylsulfonylmethyl)benzamide | 0.095 mmol, 50 mg | BrCCOC=1C=C(C(=O)NC2=CC(=C(C=C2)Cl)C2=NC=CC=C2)C=CC1CS(=O)(=O)C | C22H20BrClN2O4S
reactant | triethylamine | 0.15 mmol, 20 μl | C(C)N(CC)CC | C6H15N
reactant | piperidine | 0.11 mmol, 11 μl | N1CCCCC1 | C5H11N
reactant | N-ethyl-N-isopropylpropan-2-amine | 0.19 mmol, 25 μl | C(C)N(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | 1.0 ml | ClCCl | CH2Cl2
solvent | Acetonitrile | 0.25 ml | C(C)#N | C2H3N
product | N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(methylsulfonylmethyl)-3-(2-(piperidin-1-yl)ethoxy)benzamide | 17 mg | ClC1=C(C=C(C=C1)NC(C1=CC(=C(C=C1)CS(=O)(=O)C)OCCN1CCCCC1)=O)C1=NC=CC=C1 | C27H30ClN3O4S
